US05102667
N,N'-Carbonyldiimidazole (1.13 g) is added to a solution of 2-(3-thienyl)acetic acid (0.99 g) in dry dichloromethane (30 cc), cooled to +5° C. The mixture is stirred for 15 minutes at +5° C. and a solution of (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (2.24 g) and triethylamine (1.96 cc) in dichloromethane (20 cc) is then added. The reaction mixture is stirred for 16 hours at 20° C., then washed with distilled water (3×50 cc), dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is recrystallized from a mixture of acetonitrile (30 cc) and isopropyl ether (40 cc). The crystals are drained, washed with isopropyl ether and dried. (3aRS,7aRS)-7,7-diphenyl-2-[2-(3-thienyl)acetyl]-4-perhydroisoindolone (2.2 g) melting at 224° C. is obtained.

reactant | 2-(3-thienyl)acetic acid | 0.99 g | S1C=C(C=C1)CC(=O)O | C6H6O2S
reactant | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 2.24 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1
reactant | triethylamine | 1.96 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 20 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-7,7-diphenyl-2-[2-(3-thienyl)acetyl]-4-perhydroisoindolone | 2.2 g | C1(=CC=CC=C1)C1(CCC(C2CN(CC12)C(CC1=CSC=C1)=O)=O)C1=CC=CC=C1 | C26H25NO2S
